US07414050B2
c) 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide
A solution of 190 mg (0.338 mmol) of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide (as prepared in the previous step) in CH2Cl2 (10 mL) was treated with MeOH (200 μL) and TFA (3 mL) at RT for 1.5 h. MeOH (30 mL) was added, the mixture was concentrated to half volume, MeOH (15 mL) was added, and the solvents were removed completely in vacuo at <35° C. Silica gel chromatography of the residue with 25-75% EtOAc-hexane afforded 92.9 mg (64%) of the title compound as a white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.22 (d, 1H, J=8.4 Hz), 8.02 (s, 1H), 7.26 (dd, 1H, J=8.4, 2.4 Hz), 7.18 (d, 1H, J=2.4 Hz), 5.79-5.75 (m, 1H), 3.52-3.42 (m, 1H), 2.93-2.76 (m, 4H), 2.37-2.30 (m, 2H), 2.12-2.07 (m, 2H), 1.62 (t, 2H, J=5.6 Hz), 1.10 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C24H25N5O3, 432.2 (M+H). found 432.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide | 0.338 mmol, 190 mg | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1CC(NC(C1)=O)=O)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C | C30H39N5O4Si
reactant | MeOH | 200 μL | CO | CH4O
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MeOH | 30 mL | CO | CH4O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide | 92.9 mg, 64% | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1CC(NC(C1)=O)=O)NC(=O)C=1NC=C(N1)C#N)C | C24H25N5O3
